US04638067
A solution of 0.87 g (2.17 mmol) ethyl 7-[4-(azidomethyl)-2-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 125 ml acetic acid was stirred with 0.10 g 10% palladium on carbon catalyst and hydrogen gas bubbled through for 1.5 hours. After filtration, evaporation of solvent and trituration with ether gave 0.77 g of ethyl 7-[4-(aminomethyl)-2-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate.

reactant | ethyl 7-[4-(azidomethyl)-2-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 2.17 mmol, 0.87 g | N(=[N+]=[N-])CC=1N=C(SC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O)F | C18H16FN5O3S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
product | ethyl 7-[4-(aminomethyl)-2-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.77 g | NCC=1N=C(SC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O)F | C18H18FN3O3S
